US04596870
4-Chloro-1-(bromomethylsulfinyl)-benzene
90% m-Chloroperbenzoic acid (17 mmol) in chloroform (35 ml) solution was added dropwise with stirring over 1 h at 0° C. to a solution of 1-bromomethylsulfenyl-4-chlorobenzene (15 mmol) in chloroform (35 ml). The mixture was stirred at room temperature overnight, shaken with 1M K2CO3 aq., the dried (MgSO4) chloroform solution evaporated and the solid residue recrystallized from CHCl3 : pet. ether; yield 3.20 g (84%), m.p. 100° C. 1H NMR (CDCl3): δ 4.28 (CH2), 7.53 (Ph). IR (KBr): 1040-1030 cm-1 (SO).

reactant | m-Chloroperbenzoic acid | 17 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-bromomethylsulfenyl-4-chlorobenzene | 15 mmol | BrCSC1=CC=C(C=C1)Cl | C7H6BrClS
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-1-(bromomethylsulfinyl)-benzene | ClC1=CC=C(C=C1)S(=O)CBr | C7H6BrClOS
